US07348438B2
5,6-Dichloro-2-(2,2,2-trifluoro-ethyl)-1-(2-trifluoromethyl-benzyl)-1H-benzoimidazole
To 5,6-dichloro-2-(2,2,2-trifluoro-ethyl)-1H-benzimidazole (577 mg) in DMF (6 mL) was added potassium carbonate powder (890 mg) and 2-(trifluoromethyl)benzyl bromide (1.54 g). The resulting mixture was stirred at room temperature overnight. The reaction mixture was quenched with water, extracted with EtOAc, and dried over Na2SO4. The crude product was purified by silica gel chromatography (5%-40% EtOAc/hexanes), followed by recrystallization with hexanes to yield the title compound as an orange-brown solid.

reactant | 5,6-dichloro-2-(2,2,2-trifluoro-ethyl)-1H-benzimidazole | 577 mg | ClC1=CC2=C(NC(=N2)CC(F)(F)F)C=C1Cl | C9H5Cl2F3N2
reactant | potassium carbonate | 890 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(trifluoromethyl)benzyl bromide | 1.54 g | FC(C1=C(CBr)C=CC=C1)(F)F | C8H6BrF3
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 5,6-Dichloro-2-(2,2,2-trifluoro-ethyl)-1-(2-trifluoromethyl-benzyl)-1H-benzoimidazole | ClC1=CC2=C(N(C(=N2)CC(F)(F)F)CC2=C(C=CC=C2)C(F)(F)F)C=C1Cl | C17H10Cl2F6N2
